Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left thumb felon, likely extension from paronychia.

 
Major Surgical or Invasive Procedure:
Felon I+D and packing

 
History of Present Illness:
___ year old male, recent diagnosis of HIV, CD4 > 500 presents to 
ED on ___ with left thumb pain and swelling x 5 days.  Pt 
states that he developed some smouldering pain at the radial 
nail edge about 5 days ago with some associated
redness however yesterday he began to develop significant pain 
within the dorsal pulp of the thumb and it became increasingly 
swollen.  He was seen in clinic at ___ and referred to 
the plastics clinic where we referred him to the ED to initiate 
definitive treatment.  
 
Past Medical History:
HIV, recently diagnosed
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Initial PE from Plastics Consult note ___:
VS- Afebrile.
gen- NAD, Non-toxic.
CV- RRR
Pulm- Respirations un-labored
Abd-Soft, NTND
Extr- L thumb erythematous distal to PIP joint, area of whitish
fluctuance along radial edge of nailbed, no active drainage.
Volar pulp of thumb erythematous, swollen, exquisitely TTP.  
Full
sensation intact to LT throughout. Cap refill <2 sec.

 
Pertinent Results:
___ 04:48PM   GLUCOSE-99 LACTATE-1.5 NA+-141 K+-4.2 CL--102 
TCO2-25
___ 04:40PM   UREA N-19 CREAT-0.7
___ 04:40PM   estGFR-Using this
___ 04:40PM   WBC-5.8 RBC-4.48* HGB-12.5* HCT-37.5* MCV-84 
MCH-27.9 MCHC-33.4 RDW-13.5
___ 04:40PM   NEUTS-68.4 ___ MONOS-3.4 EOS-0.5 
BASOS-0.2
___ 04:40PM   PLT COUNT-288
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and he had an incision and drainage of a left thumb 
abscess/felon.  The patient tolerated the minor procedure well. 
The patient was then ordered for a splint, strict elevation and 
QID ___ strength hydrogen peroxide soaks.
.
Neuro: The patient's pain was controlled with Percocet PRN with 
good effect.
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: Patient was maintained on a regular diet while inpatient. 
 Intake and output were closely monitored. 
.
ID: Per Infectious Disease recommendations the patient was 
started on IV Vancomycin and Unasyn while in hospital, and then 
switched to PO cephalexin and PO Bactrim for a ___t 
discharge. The patient's temperature was closely watched for 
signs of infection. 
.
Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible. 
.
At the time of discharge on hospital day #5, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled. 

 
Medications on Admission:
Atripla
 
Discharge Medications:
1. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
2. Efavirenz 600 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
4. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO every 
twelve (12) hours for 10 days.
Disp:*20 Tablet(s)* Refills:*0*
5. Keflex ___ mg Capsule Sig: One (1) Capsule PO every six (6) 
hours for 10 days.
Disp:*40 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left thumb felon, extension from paronychia.

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted on ___ for treatment of a Left thumb wound 
infection/abscess. You were treated with incision and drainage 
of wound and Vancomycin and Unasyn for IV antibiotics. Please 
follow these discharge instructions.
.
Followup Instructions:
___